US05708008
5-(2-naphthoyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole
To a solution of 0.989 gm (4.31 mMol) 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole in 20 mL tetrahydrofuran and 10 mL dimethylformamide were added 0.721 mL (5.2 mMol) triethylamine followed by 0.904 gm (4.74 mMol) 2-naphthoyl chloride. After 18 hours the reaction mixture was cooled in an ice bath and then diluted with 100 mL ethyl acetate followed by 50 mL 2N sodium hydroxide. The phases were separated and the aqueous extracted with ethyl acetate. The organic extracts were combined then washed sequentially with 2N sodium hydroxide, water and saturated aqueous sodium chloride. The remaining organics were dried over sodium sulfate and concentrated under reduced pressure. The residue was subjected to flash chromatography, eluting with 100:10:1 dichloromethane:methanol:ammonium hydroxide. Fractions shown to contain product were combined and concentrated under reduced pressure. The residue was precipitated from ethyl acetate/hexane to give 1.355 gm (82.1%) of the title compound as a tan powder.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole | 4.31 mMol, 0.989 gm | NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C14H19N3
reactant | triethylamine | 5.2 mMol, 0.721 mL | C(C)N(CC)CC | C6H15N
reactant | 2-naphthoyl chloride | 4.74 mMol, 0.904 gm | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
reactant | sodium hydroxide | 2N, 50 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 5-(2-naphthoyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole | 1.355 gm, 82.1% | C1=C(C=CC2=CC=CC=C12)C(=O)NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C25H25N3O
